// Test-bench for generting transient response of a 3-stage ring oscillator
// TESTED ON SPECTRE Version 10.1.1.374.isr21

simulator lang=spectre 
ahdl_include "mvs_si.va"
format options rawfmt=psfascii

//Library name: daa_mosfet
subckt inverter Vin Vout Vvdd Vgnd
I1 (Vvdd Vin Vout Vvdd) daa_mosfet tipe=-1 W=1.0e-4 Lgdr=32e-7 \
         dLg=8e-7 Cg=2.57e-6 beta=1.8 alpha=3.5 \
	 Cif = 1.38e-12 Cof=1.47e-12 phib=1.2 gamma=0.1 mc=0.2 CTM_select=1 \
	Rs0=100 Rd0 = 100 n0=1.68 nd=0.1 vxo=7542204 mu=165.79 Vt0=0.5535 delta=0.15 
I0 (Vout Vin Vgnd Vgnd) daa_mosfet tipe=1 W=1e-4 Lgdr=32e-7 \
	dLg=9e-7 Cg=2.57e-6 beta=1.8 alpha=3.5 \
	Cif=1.38e-12 Cof=1.47e-12 phib=1.2 gamma=0.1 mc=0.2 CTM_select=1 \
	Rs0=100 Rd0=100 n0=1.68 nd=0.1 vxo=1.2e7 mu=200 Vt0=0.4 delta=0.15
c1 (Vout Vgnd) capacitor c=3f
ends inverter

parameters vdi=1
Vsup (sup 0) vsource dc=vdi 


Inv1 (n1 n2 sup 0) inverter
Inv2 (n2 n3 sup 0) inverter
Inv3 (n3 n1 sup 0) inverter


ic n1=vdi
tran_RO3 tran step=1p stop=100p method=trap save=all

simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 

// add cmin=1e-18 in simulatorOptions line to achieve better convergence.
// check for cmin compatability with older Spectre versions.

// following lines can be uncommented to store results in rawfile.

//modelParameter info what=models where=rawfile
//element info what=inst where=rawfile
//outputParameter info what=output where=rawfile
//designParamVals info what=parameters where=rawfile
//primitives info what=primitives where=rawfile
//subckts info what=subckts  where=rawfile
//saveOptions options save=allpub

