// Test-bench for generating transient response of a 5-stage ring oscillator
// TESTED ON SPECTRE Version 10.1.1.374.isr21

simulator lang=spectre 
ahdl_include "mvs_si.va"
format options rawfmt=psfascii

//Library name: daa_mosfet
subckt inverter Vin Vout Vvdd Vgnd
I1 (Vvdd Vin Vout Vvdd) daa_mosfet tipe=-1 W=1.0e-4 Lgdr=32e-7 \
         dLg=8e-7 Cg=2.57e-6 beta=1.8 alpha=3.5 \
	 Cif = 1.38e-12 Cof=1.47e-12 phib=1.2 gamma=0 mc=0.2 CTM_select=1 \
	Rs0=100 Rd0 = 100 n0=1.68 nd=0.1 vxo=7542204 mu=165.79 Vt0=0.5535 delta=0.15 
I0 (Vout Vin Vgnd Vgnd) daa_mosfet tipe=1 W=1e-4 Lgdr=32e-7 \
	dLg=9e-7 Cg=2.57e-6 beta=1.8 alpha=3.5 \
	Cif=1.38e-12 Cof=1.47e-12 phib=1.2 gamma=0 mc=0.2 CTM_select=1 \
	Rs0=100 Rd0=100 n0=1.68 nd=0.1 vxo=1.2e7 mu=200 Vt0=0.4 delta=0.15
c1 (Vout Vgnd) capacitor c=3f
ends inverter

parameters vdi=1
Vsup (sup 0) vsource dc=vdi 


Inv1 (n1 n2 sup 0) inverter
Inv2 (n2 n3 sup 0) inverter
Inv3 (n3 n4 sup 0) inverter
Inv4 (n4 n5 sup 0) inverter
Inv5 (n5 n1 sup 0) inverter

ic n1=vdi

tran_RO5 tran step=0.1p stop=200p method=trap save=all

simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 

// add cmin=1e-18 in simulatorOptions line to achieve better convergence.
// check for cmin compatability with older Spectre versions.

// following lines can be uncommented to store results in rawfile.
// modelParameter info what=models where=rawfile
// element info what=inst where=rawfile
// outputParameter info what=output where=rawfile
// designParamVals info what=parameters where=rawfile
// primitives info what=primitives where=rawfile
// subckts info what=subckts  where=rawfile
// saveOptions options save=allpub
