// Test-bench for silicon MVS model
// simulates the dc I-V characteristics of the transistor
// TESTED ON SPECTRE Version 10.1.1.374.isr21

simulator lang=spectre 
ahdl_include "mvs_si_1_0_1.va"
format options rawfmt=psfascii

parameters vgi = 0.4
parameters vdi = 1.0
M1 (drain gate source body) mvs_si_1_0_1 type=1 W=1e-4 Lgdr=32e-7 dLg=9e-7 Cg=2.57e-6 beta=1.8 alpha=3.5 etov=1.3e-3 Cif=0 Cof=0 phib=1.2 gamma=0 mc=0.2 CTM_select=1 Rs0=100 Rd0=100 n0=1.68 nd=0.1 vxo=1.2e7 mu=200 Vt0=0.4 delta=0.15
Vdrain (drain 0) vsource dc = vdi
Vgate (gate 0) vsource dc = vgi
Vsource (source 0) vsource dc = 0
Vbody (body 0) vsource dc = 0

dcsweep_drain dc param=vdi start=-1 stop=1 step=0.01 save=all 
save M1:currents
save M1:Qs
save M1:Qd
save M1:Qg
save M1:Qb
save M1:Id




